US08754100B2
Synthesis of 4-tert-butyl-1-methoxy-2-methylbenzene
Potassium carbonate (8.4 g) and methyl iodide (2.9 mL) were added to a solution of 4-tert-butyl-2-methylphenol (CAS #98-27-1, 5.0 g) in N,N-dimethylformamide (25 mL), and the mixture was stirred at room temperature for three days. Ice water and hexane were added to the reaction solution, and the organic layer was separated. The resulting organic layer was sequentially washed with water and brine, dried over anhydrous magnesium sulfate and then concentrated under reduced pressure to obtain 5.16 g of the title compound. The property values of the compound are as follows.

reactant | Potassium carbonate | 8.4 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 2.9 mL | CI | CH3I
reactant | 4-tert-butyl-2-methylphenol | 5.0 g | C(C)(C)(C)C1=CC(=C(C=C1)O)C | C11H16O
reactant | hexane | CCCCCC | C6H14
solvent | N,N-dimethylformamide | 25 mL | CN(C=O)C | C3H7NO
product | 4-tert-butyl-1-methoxy-2-methylbenzene | 5.16 g | C(C)(C)(C)C1=CC(=C(C=C1)OC)C | C12H18O
